US06380218B1
(S)-2-(3-Chloro-phenoxy)-3-(4-phenyl4,5-dihydro-oxazol-2-y)-pyridine
A solution of (S)-2-(3-Chloro-phenoxy)-N-(2-hydroxy-1-phenyl-ethyl)-nicotinamide (0.340 grams, 0.922 mmole) and phosprorus oxychloride (0.7 ml) in toluene (10 ml) was stirred over night. The mixture was concentrated to dryness and dissolved in methanol (10 ml) and potassium carbonate was added. The mixture was stirred for 2 hours at room temperature and refluxed for 30 minutes. The methanol was evaporated, and the residue taken up in ethyl acetate. It was washed with water and brine, dried over Na2SO4, and concentrated to give a product that was purified by chromatography on silica gel eluting with 1/3 ethyl acetate/hexane to give a pale yellow oil (0.013 g); HRMS 351.0917; M.P. 78-80° C.; Anal. calcd. for C20H15N2O2Cl: C, 57.37;H, 3.74; N, 7.42. Found: C, 57.31; H, 3.80; N, 7.39.

reactant | (S)-2-(3-Chloro-phenoxy)-N-(2-hydroxy-1-phenyl-ethyl)-nicotinamide | 0.922 mmole, 0.340 grams | ClC=1C=C(OC2=C(C(=O)N[C@H](CO)C3=CC=CC=C3)C=CC=N2)C=CC1 | C20H17ClN2O3
reactant | oxychloride | 0.7 ml | O(Cl)Cl | Cl2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-2-(3-Chloro-phenoxy)-3-(4-phenyl4,5-dihydro-oxazol-2-y)-pyridine | 0.013 g | ClC=1C=C(OC2=NC=CC=C2C=2OC[C@@H](N2)C2=CC=CC=C2)C=CC1 | C20H15ClN2O2
